US07795278B2
Ethyl 3-(1-methoxy-5,6,7,8-tetrahydroisoquinolin-4-ylamino)benzoate (Compound 12)
580 mg (4.9 mmol) of 95% pure KOtBu are introduced into 20 ml of abs. toluene. After evacuation and ventilation with argon three times, 847 mg (3.5 mmol) of 4-bromo-1-methoxy-5,6,7,8-tetrahydroisoquinoline, and 868 mg (5.25 mmol) of ethyl 3-aminobenzoate are added. Addition of 160 mg (0.175 mmol) of tris(dibenzylidene)dipalladium and 209 mg (0.7 mmol) of di-tert-butylphosphinobiphenyl is followed by heating at 100° C. for three hours. For workup, the mixture is concentrated and the residue is partitioned between H2O and ethyl acetate. The phases are separated and the aqueous phase is extracted three times more. The combined organic phases are washed once more with H2O, dried with Na2SO4 and concentrated. Further purification takes place by chromatography on silica gel (CH2Cl2/MeOH 99:1), resulting in 640 mg of the title compound. Yield: 55%.

reactant | KOtBu | 4.9 mmol, 580 mg | CC(C)(C)[O-].[K+]
reactant | 4-bromo-1-methoxy-5,6,7,8-tetrahydroisoquinoline | 3.5 mmol, 847 mg | BrC1=CN=C(C=2CCCCC12)OC | C10H12BrNO
reactant | ethyl 3-aminobenzoate | 5.25 mmol, 868 mg | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | di-tert-butylphosphinobiphenyl | 0.7 mmol, 209 mg | C(C)(C)(C)P(C(C)(C)C)C1=C(C=CC=C1)C1=CC=CC=C1 | C20H27P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(1-methoxy-5,6,7,8-tetrahydroisoquinolin-4-ylamino)benzoate | 640 mg, Yield: 55% | COC1=NC=C(C=2CCCCC12)NC=1C=C(C(=O)OCC)C=CC1 | C19H22N2O3
